US04753936
4-(2-Benzyloxyphenyl)-1,4-dihydro-2,6-dimethyl-5-nitropyridine-3-carboxylic acid 4-(2-trifluoromethylphenylethyl)piperazide
2.97 g (10 mmol) of 1-(-2-benzyloxyphenyl)-2-nitro-1-buten-3-one and 2.96 g (mmol) of 3-aminocrotonic acid 4-(2-trifluoromethylphenylethyl)piperazide are heated in 15 ml of isopropanol at 60° C. for 4 hours. After cooling, a crude product is obtained, and this is recrystallized from a littel ethanol.

reactant | 1-(-2-benzyloxyphenyl)-2-nitro-1-buten-3-one | 10 mmol, 2.97 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=C(C(C)=O)[N+](=O)[O-] | C17H15NO4
reactant | 3-aminocrotonic acid 4-(2-trifluoromethylphenylethyl)piperazide | 2.96 g | FC(C1=C(C=CC=C1)CCN1CCN(CC1)C(\C=C(\C)/N)=O)(F)F | C17H22F3N3O
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 4-(2-Benzyloxyphenyl)-1,4-dihydro-2,6-dimethyl-5-nitropyridine-3-carboxylic acid 4-(2-trifluoromethylphenylethyl)piperazide | FC(C1=C(C=CC=C1)CCN1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C)C)(F)F | C34H35F3N4O4
